US04026881
To a solution of 8.0 g. (0.2 mol.) of sodium hydroxide in 200 ml. of water is added 20.0 g. (0.0917 mol.) of ethyl 4-hydroxy-1,5-naphthyridine-3-carboxylate. The mixture is heated under reflux for 6 hours, and then the hot solution is treated with decolorizingcharcoal and then filtered hot. The filtrate is cooled to 25° C. andacidified to pH 3 with 6N hydrochloric acid. The mixture is then cooled in an ice-bath for 15 minutes and the precipitate is removed by filtration. The solid obtained is washed with water, followed by ether, followed by acetone, and dried. This affords 11.2 g. (64% yield) of 4-hydroxy-1,5-naphthyridine-3-carboxylic acid.

reactant | sodium hydroxide | 0.2 mol | [OH-].[Na+]
reactant | ethyl 4-hydroxy-1,5-naphthyridine-3-carboxylate | 0.0917 mol | OC1=C(C=NC2=CC=CN=C12)C(=O)OCC | C11H10N2O3
solvent | water | O | H2O
product | 4-hydroxy-1,5-naphthyridine-3-carboxylic acid | 64% yield | OC1=C(C=NC2=CC=CN=C12)C(=O)O | C9H6N2O3
